US04427438
A suspension of electrolytic iron powder (3.5 g) in a 5% aqueous acetic acid solution was heated to 90° C., and a solution of 4-chloro-2-fluoro-5-(2-propynyloxy)nitrobenzene (5.7 g) in acetic acid (40 ml) was dropwise added thereto at the same temperature. The resultant mixture was stirred for at 90°-105° C. for 1 hour and allowed to cool to room temperature. Water (200 ml) was added thereto. Insoluble materials were filtered off, and the filtrate was neutralized, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated. The residue was washed with petroleum ether and carbon tetrachloride to give 3.6 g of 4-chloro-2-fluoro-5-(2-propynyloxy)aniline. M.P. 61.0°-61.5° C.

reactant | 4-chloro-2-fluoro-5-(2-propynyloxy)nitrobenzene | 5.7 g | ClC1=CC(=C(C=C1OCC#C)[N+](=O)[O-])F | C9H5ClFNO3
reactant | Water | 200 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 3.5 g | [Fe] | Fe
product | 4-chloro-2-fluoro-5-(2-propynyloxy)aniline | 3.6 g | ClC1=CC(=C(N)C=C1OCC#C)F | C9H7ClFNO
